US05977136
(+/-)2-(3,5-Dibromo-2-Iodo-Phenylamino)Pent-4-Enoic Acid Benzyl Ester
To a solution of 2-iodo-3,5-dibromoaniline (1.1 g) in dry toluene (20 ml) were added benzylglyoxylate (0.530 g) and Na2SO4 (1 g). The mixture was refluxed overnight. After filtration the resulting solution was concentrated under vacuum to a brown oil, which was then taken up with dry dichloromethane (20 ml). After cooling to -78°, TiCl4 (0.318 ml) was slowly added with a syringe and stirring continued for 5 min. The solution was then allowed to warm to room temperature over 30 min by removing the dry ice/acetone bath, then cooled again to -78° and tributylallyltin (0.98 ml) added. After 1 hour the reaction was stopped by pouring it into a saturated solution of NH4Cl (80 ml). The aqueous phase was extracted with EA (2×100 ml) and the combined organic fractions washed with HCl (3 N, 2×30 ml) and brine (50 ml) and dried. Final purification by column chromatography (CH/EA 8/2) gave the title compound (0.6 g) as a yellow oil.

reactant | 2-iodo-3,5-dibromoaniline | 1.1 g | IC1=C(N)C=C(C=C1Br)Br | C6H4Br2IN
reactant | benzylglyoxylate | 0.530 g | C(C1=CC=CC=C1)C(C(=O)[O-])=O
reactant | Na2SO4 | 1 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (+/-)2-(3,5-Dibromo-2-Iodo-Phenylamino)Pent-4-Enoic Acid Benzyl Ester | 0.6 g | C(C1=CC=CC=C1)OC(C(CC=C)NC1=C(C(=CC(=C1)Br)Br)I)=O | C18H16Br2INO2
